US08487108B2
To a solution of (S)-tert-butyl 2-amino-3-cyclohexylpropyl(methyl)carbamate (165 mg, 0.61 mmol) and DIEA (3 mL) in anhydrous CH2Cl2 (10 mL) was added CDI (98 mg, 0.61 mmol) with ice bath. After addition, the mixture was stirred for 1 h at 0° C., followed by the addition of methyl 4-((R)-(3-chlorophenyl)((R)-piperidin-3-yl)methoxy)butanoate (165 mg, 0.51 mmol) in anhydrous CH2Cl2 (2 mL). The reaction mixture was allowed to warm to rt and stirred overnight. The reaction mixture was washed with water (10 mL) and the aqueous layer extracted with CH2Cl2 (15 mL×2), the combined organic layers was washed with saturated brine, dried over Na2SO4, filtered, then evaporated to give a residue, which was purified via preparative TLC to afford methyl 4-((R)—((R)-1-((S)-1-(tert-butoxycarbonyl(methyl)amino)-3-cyclohexylpropan-2-ylcarbamoyl)piperidin-3-yl)(3-chlorophenyl)methoxy)butanoate (70 mg, 22% yield). 1H NMR (CD3OD, 400 MHz) δ 7.34-7.28 (m, 3H), 7.19 (t, 1H), 4.25 (d, 1H), 4.11 (d, 1H), 3.95 (m, 2H), 3.64 (t, 3H), 3.27 (m, 1H), 3.10 (m, 1H), 2.87 (s, 2H), 2.69 (m, 2H), 2.43 (t, 1H), 1.84 (t, 2H), 1.72-1.52 (m, 6H), 1.45 (d, 9H), 1.39-1.22 (m, 10H), 1.14 (d, 1H), 0.97 (d, 2H), 0.85 (t, 1H).

reactant | (S)-tert-butyl 2-amino-3-cyclohexylpropyl(methyl)carbamate | 0.61 mmol, 165 mg | N[C@H](CN(C(OC(C)(C)C)=O)C)CC1CCCCC1 | C15H30N2O2
reactant | DIEA | 3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | CDI | 0.61 mmol, 98 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methyl 4-((R)-(3-chlorophenyl)((R)-piperidin-3-yl)methoxy)butanoate | 0.51 mmol, 165 mg | ClC=1C=C(C=CC1)[C@H](OCCCC(=O)OC)[C@H]1CNCCC1 | C17H24ClNO3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-((R)—((R)-1-((S)-1-(tert-butoxycarbonyl(methyl)amino)-3-cyclohexylpropan-2-ylcarbamoyl)piperidin-3-yl)(3-chlorophenyl)methoxy)butanoate | 70 mg, 22% yield | C(C)(C)(C)OC(=O)N(C[C@H](CC1CCCCC1)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCCC(=O)OC)C1=CC(=CC=C1)Cl)C | C33H52ClN3O6
